US09428515B2
2-(1,5-Dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-5-isopropyl-7,7-dimethyl-3-((S)-1-phenyl-ethyl)-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one I-2
1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid [1-isopropyl-3,3-dimethyl-2-oxo-6-((S)-1-phenyl-ethylamino)-2,3-dihydro-1H-indol-5-yl]-amide I-2′ (100 mg; 0.21 mmol) is dissolved in 2 ml acetic acid and stirred at 120° C. for 7 h. The solvent is evaporated and the crude product is purified using reversed phase chromatography (Method: prep. HPLC2).

reactant | 1,5-Dimethyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid [1-isopropyl-3,3-dimethyl-2-oxo-6-((S)-1-phenyl-ethylamino)-2,3-dihydro-1H-indol-5-yl]-amide | C(C)(C)N1C(C(C2=CC(=C(C=C12)N[C@@H](C)C1=CC=CC=C1)NC(=O)C1=CN(C(C(=C1)C)=O)C)(C)C)=O | C29H34N4O3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-(1,5-Dimethyl-6-oxo-1,6-dihydro-pyridin-3-yl)-5-isopropyl-7,7-dimethyl-3-((S)-1-phenyl-ethyl)-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one | CN1C=C(C=C(C1=O)C)C=1N(C=2C(=CC=3C(C(N(C3C2)C(C)C)=O)(C)C)N1)[C@@H](C)C1=CC=CC=C1 | C29H32N4O2
